US06869962B2
(7-Chloro-thieno[3,2-b]pyridin-2-yl)-pyrrolidin-1-yl-methanone
This material was prepared from the coupling of 7-chlorothieno[3,2-b]pyridine-2-carboxylic acid and pyrrolidine in a manner as previously described for example 9d. 1H NMR (300 MHz, CD3OD) δ8.60 (1H, d, J=5.1 Hz), 7.84 (1H, s), 7.32 (1H, d, J=5.1 Hz), 3.82 (2H, t, J=6.4 Hz), 3.70 (2H, t, J=6.6 Hz), 2.02 (4H, m). LCMS (ESI+) [M+H]/z Calc'd 267, found 267.

reactant | 7-chlorothieno[3,2-b]pyridine-2-carboxylic acid | ClC1=C2C(=NC=C1)C=C(S2)C(=O)O | C8H4ClNO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (7-Chloro-thieno[3,2-b]pyridin-2-yl)-pyrrolidin-1-yl-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCCC2 | C12H11ClN2OS
